US07402595B2
6-bromo-2-(4-methylsulfanylbenzyl)-4-phenyl-3-propionyl-2H-isoquinolin-1-one
To a solution of 1-(4-methylsulfanylbenzylamino)butan-2-ol (8.5 g) and 2-benzoyl-4-bromobenzoic acid (14.7 g) and 1-hydroxy-1H-benzotriazole (7.4 g) in DMF (100 ml) was added triethylamine (8.4 ml) and then WSC (11.5 g) was added at room temperature. The mixture was stirred at room temperature for 4 days. The solvent was evaporated under reduced pressure, and the residue was partitioned between dichloromethane and water, washed with 1N hydrochloric acid, aqueous sodium hydrogen carbonate and brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1-+13/7). The resulting colorless amorphous form was dissolved in dimethyl sulfoxide (100 ml) and triethylamine (25.3 ml) was added. Under ice-cooling, pyridine sulfur trioxide complex (14.5 g) was added, and the mixture was stirred at room temperature for 8 hrs. Water (300 ml) was added, and the mixture was extracted with ethyl acetate and washed with 1N hydrochloric acid, aqueous sodium hydrogen carbonate and brine. Sodium sulfate was added to dry the mixture. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1→2/3). The obtained colorless amorphous form was dissolved in 0.1N potassium hydroxide-ethanol solution (75 ml) and heated under reflux for 12 hrs. 1N Hydrochloric acid (7.5 ml) was added and the mixture was stirred under ice-cooling for 1 hr. The crystals were collected by filtration and washed with 70% ethanol-water to give the title compound (6.58 g, 34%).

reactant | 1-(4-methylsulfanylbenzylamino)butan-2-ol | 8.5 g | CSC1=CC=C(CNCC(CC)O)C=C1 | C12H19NOS
reactant | 2-benzoyl-4-bromobenzoic acid | 14.7 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Br | C14H9BrO3
reactant | 1-hydroxy-1H-benzotriazole | 7.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | WSC | 11.5 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
product | 6-bromo-2-(4-methylsulfanylbenzyl)-4-phenyl-3-propionyl-2H-isoquinolin-1-one | 6.58 g, 34% | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)SC)C(CC)=O)C1=CC=CC=C1 | C26H22BrNO2S
